Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall 
 
Major Surgical or Invasive Procedure:
___: Nasal laceration sutured 

 
History of Present Illness:
___ with dementia with mechanical fall with bilateral frontal 
sinus fx, L orbital floor fx, bilateral nasal bone fx, L 
ptyerigoid fx, multiple maxillary fx. Given baseline dementia, 
much of the history obtained from the record.

He reportedly fell in his driveway and hit his face against the 
ground. He was brought to ___ where CT head, face, and c 
spine were performed, after which he was transferred to ___. 

He denies CP, SOB, dizziness. He endorses facial pain. 
 
Past Medical History:
Past Medical History: Dementia, COPD

Past Surgical History: None
 
Social History:
___
Family History:
unknown
 
Physical Exam:
Admission Physical Exam:
Vitals: 98.5 68 168/76 22 98 RA
GEN: A&O, NAD
HEENT: extensive facial ecchymosis with abrasions. 
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender.
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 97.6 PO 149 / 83 L Lying 75 18 97 Ra 
GEN: awake, alert, pleasant and interactive.
HEENT: facial ecchymosis especially around eyes and nose. 
Abrasion/laceration on nose with sutures. 
CV: RRR
PULM: Clear bilaterally.
ABD: Soft, non-tender, non-distended.
EXT: Warm and dry. 2+ ___ pulses. 
 
Pertinent Results:
___ 07:00AM BLOOD WBC-5.9 RBC-3.40* Hgb-9.9* Hct-30.8* 
MCV-91 MCH-29.1 MCHC-32.1 RDW-14.3 RDWSD-47.1* Plt ___
___ 09:33AM BLOOD WBC-5.8 RBC-3.48* Hgb-10.3* Hct-31.3* 
MCV-90 MCH-29.6 MCHC-32.9 RDW-14.5 RDWSD-46.5* Plt ___
___ 08:26PM BLOOD WBC-8.3 RBC-3.66* Hgb-10.8* Hct-32.5* 
MCV-89 MCH-29.5 MCHC-33.2 RDW-14.6 RDWSD-46.7* Plt ___
___ 07:00AM BLOOD Glucose-130* UreaN-14 Creat-0.7 Na-143 
K-4.5 Cl-104 HCO3-23 AnGap-16
___ 09:33AM BLOOD Glucose-152* UreaN-15 Creat-0.7 Na-141 
K-4.2 Cl-102 HCO3-23 AnGap-16
___ 08:26PM BLOOD Glucose-148* UreaN-15 Creat-0.6 Na-136 
K-5.2 Cl-101 HCO3-19* AnGap-16
___ 07:00AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.4
___ 09:33AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.2
___ 09:22PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 09:22PM URINE Blood-TR* Nitrite-POS* Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 09:22PM URINE RBC-3* WBC-161* Bacteri-MANY* Yeast-NONE 
Epi-<1 TransE-1

___ 9:22 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    ___ I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Imaging reports in paper chart from Outside Hospital Records. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M history significant for dementia who 
presented to the emergency department after sustaining a 
mechanical fall forward onto his face. CT head showed no acute 
intracranial process, CT neck negative for acute fracture. CT 
max/face showed multiple fractures including possible Left 
occipital skull fracture, bilateral frontal sinus fractures, 
bilateral orbital floor fractures, bilateral nasal bone 
fractures, bilateral ptyergoid fractures, and bilateral multiple 
maxillary wall fractures. Despite all these injuries, the 
patient had minimal pain. His vision was intact. He was seen by 
the plastic surgery team who recommended sinus precautions and a 
soft diet for 1 week, and sutured his nasal laceration. He was 
admitted to the floor for pain control and hemodynamic 
monitoring. 

Neuro: The patient was alert but orientation waxed and waned 
during the hospitalization but he remained calm and cooperative. 
He was evaluated by occupational therapy who recommended 
discharge to rehab or home with supervision based on his 
inability to consistently demonstrate understanding of sinus 
precautions and baseline dementia.   
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint. Early ambulation was encouraged throughout 
hospitalization. 
GI/GU/FEN: The patient tolerated a regular soft diet. Patient's 
intake and output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. Urinalysis and urine 
culture were treated with Augmentin x 14 days although the 
patient did not express urinary symptoms, his dementia 
complicated assessments at times. 
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

Social: The patient came from an independent living situation 
but his dementia and inconsistent self report of resources made 
placement difficult. NO prior health care proxy was found on 
record and the patient had no recollection of ever filling one 
out. Eventually, the patient's son was identified, able to be 
present, and fill out a health care proxy form. Please see 
social work notes for additional details. 

The patient was independent and stable with ambulation in the 
hallways throughout hospitalization. Given that it was HD6, and 
would only need one more day of "sinus precautions," it was felt 
by the patient, the health care proxy, and the medical team that 
he was functioning at baseline per his mental status and could 
return home to previous living situation. The proxy was 
encouraged to check on the patient more frequently and take his 
car keys away until he was able to be seen and evaluated by the 
primary care provider. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
"None" per the patient 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*12 Tablet Refills:*0 
3.  Bacitracin Ointment 1 Appl TP QID  
4.  Docusate Sodium 100 mg PO BID  
5.  Senna 17.2 mg PO HS  
6.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left occipital skull fracture  
Bilateral frontal sinus fractures  
Bilateral  orbital floor fractures  
Bilateral  nasal bone fractures  
bilateral ptyergoid fractures  
Bilateral  multiple maxillary wall fractures  
nasal laceration  

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a fall from standing sustaining multiple facial fractures. 
You were evaluated by the plastic surgery team who recommended 
non-operative management of your injuries. Keep putting 
Bacitracin ointment on all abrasions 3 times per day. You will 
be seen in a couple weeks in the plastic surgery clinic. They 
will contact you to schedule an appointment. IF you do not hear 
from them in ___ business days; please call their clinic at the 
number listed below. 

To best help your bones heal:
-DO NOT use straw 
-Keep your head of bed elevated, recommend using several pillows 
at night
-NO bending, straining, or lifting heavy objects
-No nose blowing, 
-Eat only soft foods. 
-If you need to sneeze, keep your mouth open

You were seen and evaluated by the physical and occupational 
therapists to evaluate your stability. They recommend discharge 
home with some support from family and visiting services. 

You are now doing better and ready to be discharged from the 
hospital to continue your recovery. Please note the following 
discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___